US05559111
d) 3-Benzyloxycarbonylamino-2(R,S)-methylpropionic acid
A solution of 41.7 ml of chloroformic acid benzyl ester (9%) in toluene is added to 25 g of 3-amino-2(R,S)-methylpropionic acid in 533 ml of 1N sodium hydroxide at 0° C. The reaction mixture is then stirred for 30 minutes at 0° C. After the addition of 400 ml of diethyl ether, the aqueous phase is removed and 140 ml of 4N hydrochloric acid are added. The crude title compound is obtained from the organic phase by extraction with diethyl ether: Rf (dichloromethane/methanol=8:2)=0.41.

reactant | chloroformic acid benzyl ester | 41.7 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 3-amino-2(R,S)-methylpropionic acid | 25 g | NCC(C(=O)O)C | C4H9NO2
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 1N, 533 ml | [OH-].[Na+]
product | 3-Benzyloxycarbonylamino-2(R,S)-methylpropionic acid | C(C1=CC=CC=C1)OC(=O)NCC(C(=O)O)C | C12H15NO4
